US04954501
6-[3-cyano-4-(1-piperazinyl)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
10.0 g (40.4 mmol) of 6-(4-chloro-3-cyano-phenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone are reacted with 10 g of piperazine in a manner analogous to Example 1.

reactant | 6-(4-chloro-3-cyano-phenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 40.4 mmol, 10.0 g | ClC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)C#N | C12H10ClN3O
reactant | piperazine | 10 g | N1CCNCC1 | C4H10N2
product | 6-[3-cyano-4-(1-piperazinyl)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | C(#N)C=1C=C(C=CC1N1CCNCC1)C=1C(CC(NN1)=O)C | C16H19N5O
